US06921762B2
Step B: 3-methyl-2-(2-phenylethyl)-6-(4-pyridyl)-5-(3-(trifluoromethyl)phenyl)-3H-pyrimidin-4-one
To a solution of 3-methyl-4-oxo-6-(4-pyridyl)-5-(3-(trifluoromethyl)-phenyl)-3H-pyrimidine-2-carbonitrile (280 mg, 0.79 mmole) in THF (20 mL) was added phenethylene magnesium chloride (1.0M in THF, 1.2 mL) at 0° C. The reaction solution was then stirred at 0° C. for 5 mins. The mixture was partitioned between sat. ammonium chloride and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and concentrated to a syrup. The residue was purified by column chromatography on silica gel (30% ethyl acetate in hexane) to give the product as a syrup; MS (m/z) 436(M+H)+; C25H20F3N3O requir. 435.4.

reactant | 3-methyl-4-oxo-6-(4-pyridyl)-5-(3-(trifluoromethyl)-phenyl)-3H-pyrimidine-2-carbonitrile | 0.79 mmole, 280 mg | CN1C(=NC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1)C#N | C18H11F3N4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-methyl-2-(2-phenylethyl)-6-(4-pyridyl)-5-(3-(trifluoromethyl)phenyl)-3H-pyrimidin-4-one | CN1C(=NC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1)CCC1=CC=CC=C1 | C25H20F3N3O
